US04956372
6-acetylamino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid
A solution of 6-amino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid (4.80 g) in dioxane (60 ml) was added 1 N aqueous sodium hydroxide solution (60 ml) and acetyl chloride (2.5 ml), the mixture was stirred for 8 hours at room temperature. After salting out, extracted with ethyl acetate, washed with water and saturated aqueous sodium chloride solution successively and dried over anhydrous sodium sulfate. After solvent was distilled away and the resulting residue was purified by silica gel column chromatography eluting with dichloromethane-ethanol (9:1) to yield 0.98 g (16.8%) of the title compound. This compound was recrystallized from ethanol to give yellow crystals, mp 258°-259° C.

reactant | 6-amino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 4.80 g | NC=1C=C2CCCNC2=C(C1)C(=O)O | C10H12N2O2
reactant | sodium hydroxide | 1 N, 60 ml | [OH-].[Na+]
reactant | acetyl chloride | 2.5 ml | C(C)(=O)Cl | C2H3ClO
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 6-acetylamino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 0.98 g, 16.8% | C(C)(=O)NC=1C=C2CCCNC2=C(C1)C(=O)O | C12H14N2O3
